US06020494
(4) Quinaldine/o-Cresol Adduct (% Mass)
BTX aromatic compounds 5.4%, o-Cresol 40.2%, isoquinoline 0.2%, unknown compounds 0.2% quinaldine 53.4%, 8-methyl quinoline 0.3%, 3-methyl isoquinoline 0.2%, lepidine 0.1%.

reactant | o-Cresol | C1(=CC=CC=C1O)C | C7H8O
reactant | isoquinoline | C1=NC=CC2=CC=CC=C12 | C9H7N
reactant | quinaldine | N1=C(C)C=CC2=CC=CC=C12 | C10H9N
reactant | 8-methyl quinoline | CC=1C=CC=C2C=CC=NC12 | C10H9N
reactant | 3-methyl isoquinoline | CC=1N=CC2=CC=CC=C2C1 | C10H9N
reactant | lepidine | N1=CC=C(C)C2=CC=CC=C12 | C10H9N
product | Quinaldine o-Cresol | N1=C(C)C=CC2=CC=CC=C12.C1(=CC=CC=C1O)C | InChI=1S/C10H9N.C7H8O/c1-8-6-7-9-4-2-3-5-10(9)11-8;1-6-4-2-3-5-7(6)8/h2-7H,1H3;2-5,8H,1H3
